US08859566B2
A mixture of 1H-Pyrazole-4-carboxylic acid ethyl ester (0.100 g, 0.713 mmol), potassium carbonate (0.019 g, 1.42 mmol), Methanesulfonic acid 1-(2,4-difluoro-phenyl)-5-oxo-pyrrolidin-3-ylmethyl ester (0.32 g, 1.07 mmol) were taken in DMF (2 ml). The reaction mixture was heated at 55-60° C. for 20 hour. The mixture was cooled to room temperature and then to this reaction mixture water (20 ml) was added and extracted with ethyl acetate (3×25 ml), organic layers were combined and washed with brine (25 ml), dried over Na2SO4 and evaporated to dryness to obtain 1-[1-(2,4-Difluoro-phenyl)-5-oxo-pyrrolidin-3-ylmethyl]-1H-pyrazole-4-carboxylic acid ethyl ester (0.22 g, 91%) as a brownish sticky mass.

reactant | 1H-Pyrazole-4-carboxylic acid ethyl ester | 0.713 mmol, 0.100 g | C(C)OC(=O)C=1C=NNC1 | C6H8N2O2
reactant | potassium carbonate | 1.42 mmol, 0.019 g | C([O-])([O-])=O.[K+].[K+]
reactant | Methanesulfonic acid 1-(2,4-difluoro-phenyl)-5-oxo-pyrrolidin-3-ylmethyl ester | 1.07 mmol, 0.32 g | FC1=C(C=CC(=C1)F)N1CC(CC1=O)COS(=O)(=O)C | C12H13F2NO4S
reactant | water | 20 ml | O | H2O
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 1-[1-(2,4-Difluoro-phenyl)-5-oxo-pyrrolidin-3-ylmethyl]-1H-pyrazole-4-carboxylic acid ethyl ester | 0.22 g, 91% | C(C)OC(=O)C=1C=NN(C1)CC1CN(C(C1)=O)C1=C(C=C(C=C1)F)F | C17H17F2N3O3
